US07504403B2
3-Amino-9-{2-[2-(3-aminomethyl-phenyl)-1-methyl-ethylamino]-pyrimidin-4-yl}-2-phenyl -6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one:
To a solution of 9-{2-[2-(3-azidomethyl-phenyl) -1-methyl-ethylamino]-pyrimidin-4-yl}-3-nitro-2-phenyl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one (61 mg, 0.11 mmol) in 1 mL methanol was safely added 10 mg palladium on carbon (10%) and stirred over an atmosphere of hydrogen delivered by a balloon. After 2 h, the reaction was filtered through a bed of Celite and solvent removed under reduced pressure. Product was purified on silica. M+1=483 1H NMR (CDCl3) d (3H, 1.19 ppm), m (2H, 2.20 ppm), dd (1H, 2.76 ppm), dd (1H, 2.96 ppm), s (2H, 3.84 ppm), m (6H, 4.08 ppm), q (1H, 4.30 ppm), d (1H, 4.95 ppm), m (4H, 7.13 ppm), t (1H, 7.28 ppm), t (1H, 7.36 ppm), t (2H, 7.45 ppm), d (2H, 7.80 ppm), d (1H), 8.03 ppm).

reactant | 9-{2-[2-(3-azidomethyl-phenyl) -1-methyl-ethylamino]-pyrimidin-4-yl}-3-nitro-2-phenyl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 0.11 mmol, 61 mg | N(=[N+]=[N-])CC=1C=C(C=CC1)CC(C)NC1=NC=CC(=N1)N1CCCN2C1=NC(=C(C2=O)[N+](=O)[O-])C2=CC=CC=C2 | C27H26N10O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 1 mL | CO | CH4O
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
product | 3-Amino-9-{2-[2-(3-aminomethyl-phenyl)-1-methyl-ethylamino]-pyrimidin-4-yl}-2-phenyl -6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | NC1=C(N=C2N(C1=O)CCCN2C2=NC(=NC=C2)NC(CC2=CC(=CC=C2)CN)C)C2=CC=CC=C2 | C27H30N8O
